US04476307
1-(3-Fluoro-4-methoxyphenyl)-3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone
By the procedure of Example B5, except to use ethyl acetate as eluant, 1-(3-fluoro-4-methoxyphenyl)-2(1H,3H)-indolone (2.0 g, 7.8 mmoles) and 1-methyl-2-pyrrolidone (1.5 ml, 15.6 mmole) were converted to title product, 0.32 g, m.p. 68°-71°.

reactant | 1-(3-fluoro-4-methoxyphenyl)-2(1H,3H)-indolone | 7.8 mmoles, 2.0 g | FC=1C=C(C=CC1OC)N1C(CC2=CC=CC=C12)=O | C15H12FNO2
reactant | 1-methyl-2-pyrrolidone | 15.6 mmole, 1.5 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-Fluoro-4-methoxyphenyl)-3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone | FC=1C=C(C=CC1OC)N1C(C(C2=CC=CC=C12)=C1N(CCC1)C)=O | C20H19FN2O2
